US08030489B2
To a mixture of 3-{[({(1R,2S)-2-[(tert-butoxycarbonyl)amino]cyclopentyl}carbonyl)amino]sulfonyl}propylacetic acid (1.2 g) and methanol (12 ml) was added a 4 M hydrogen chloride/ethyl acetate solution (6.0 ml) under ice-cooling, followed by stirring at room temperature over one night. The reaction mixture was concentrated under reduced pressure to obtain (1R,2S)-2-amino-N-[(3-hydroxypropyl)sulfonyl]cyclopentane carboxamide hydrochloride (1.1 g).

reactant | 3-{[({(1R,2S)-2-[(tert-butoxycarbonyl)amino]cyclopentyl}carbonyl)amino]sulfonyl}propylacetic acid | 1.2 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCC1)C(=O)NS(=O)(=O)CCCCC(=O)O | C16H28N2O7S
reactant | hydrogen chloride ethyl acetate | 4 M, 6.0 ml | Cl.C(C)(=O)OCC
solvent | methanol | 12 ml | CO | CH4O
product | (1R,2S)-2-amino-N-[(3-hydroxypropyl)sulfonyl]cyclopentane carboxamide hydrochloride | 1.1 g | Cl.N[C@@H]1[C@@H](CCC1)C(=O)NS(=O)(=O)CCCO | InChI=1S/C9H18N2O4S.ClH/c10-8-4-1-3-7(8)9(13)11-16(14,15)6-2-5-12;/h7-8,12H,1-6,10H2,(H,11,13);1H/t7-,8+;/m1./s1
